US04710508
Four ml of a 1.0M solution of tetrabutylammonium fluoride in tetrahydrofuran was added to 0.75 g (3.21 mmol) of (4-trimethylsilylbutyn-3-yl-3-pyridinyl)methanol in 3 ml of tetrahydrofuran and the resulting mixture as stirred at room temperature for 30 minutes. Isolation of the product yielded 0.12 g of (3-butynyl-3-pyridinyl)methanol as a brown oil.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (4-trimethylsilylbutyn-3-yl-3-pyridinyl)methanol | 3.21 mmol, 0.75 g | C[Si](CC(C#C)C1=NC=CC=C1CO)(C)C | C13H19NOSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (3-butynyl-3-pyridinyl)methanol | 0.12 g | C(#CCC)C1(CN=CC=C1)CO | C10H13NO
